US06921821B2
4-(1-Benzo[1,3]dioxol-5ylmethyl-piperidin-4-ylamino)-6-chloro-chromen-2-one (II-4)
According to Procedure A above, 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one and piperonal (0.032 g, 0.216 mmol) were allowed to react to give the title compound (0.0123 g, 39%, mono-TFA salt) as an off-white solid. 1H NMR (400 MHz, MeOH) δ ppm 8.12 (br s, 1H), 7.61 (d, J=8, 1H), 7.33 (d, J=8, 1H), 7.00 (m, 2H), 6.93 (dd, J=4, 8, 1H), 6.03 (s, 2H), 5.44 (s, 1H), 4.26 (s, 2H), 3.79-3.90 (m, 1H), 3.62-3.56 (m, 2H), 3.11-3.22 (m, 2H), 2.29-2.40 (m, 2H), 1.85-1.99 (m, 2H); MS (ESI+Q1MS) m/z 413 [M]+

reactant | 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | piperonal | 0.216 mmol, 0.032 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
product | 4-(1-Benzo[1,3]dioxol-5ylmethyl-piperidin-4-ylamino)-6-chloro-chromen-2-one | 0.0123 g, 39% | O1COC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)Cl)=O | C22H21ClN2O4
